US07217722B2
N-(2,6-Diisopropylphenyl)-N′-(4-pyridyl)urea
4-Aminopyridine (100 mg, 1.06 mmol) and 2,6-diisopropylphenyl isocyanate (216.0 mg, 1.06 mmol) were dissolved in toluene, and the mixture was then stirred at 110° C. for 4 hr.

reactant | 4-Aminopyridine | 1.06 mmol, 100 mg | NC1=CC=NC=C1 | C5H6N2
reactant | 2,6-diisopropylphenyl isocyanate | 1.06 mmol, 216.0 mg | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(2,6-Diisopropylphenyl)-N′-(4-pyridyl)urea | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(=O)NC1=CC=NC=C1 | C18H23N3O
